data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21]=C1CCC2C(CCCC2(C13CCC(O3)(C)C=C)C)(C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CC1(CCCC2(C1CCC(=[O:21])C23CCC(O3)(C)C=C)C)C 10=20;20,21=21
C1=CC=C(C=C1)O[S:20](=O)(C(F)(F)F)([O-:10])[O:21]S(=O)(=O)C(F)(F)F>>C(F)(F)(F)S(=O)(=O)[O-:21].C1=CC=C(C=C1)O[S:20](=O)(=[O:10])C(F)(F)F 10=20;20,21=21
[H:20][O+:21]1C(=CC(=CC1(C)C)O)CCC.[OH2:10]>>[H:20][OH2+:10].CCCC1=CC(=CC([O:21]1)(C)C)O 10=20;20,21=21
[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)O.O[S+:20](=O)=O>>C1=C[C+:13]([CH:12]=[CH:11][CH:10]1[S:20](=O)(=O)O)O 10,11=10,20;12,13=11,12
C[C:10](=[C:11](C1=C(C=CC=C1)[C:20](=[O:21])C(=O)O)[O-:12])O>>C[C:10]1([C:11](=[O:12])C2=C([C:20]1(C(=O)O)[O-:21])C=CC=C2)O 10,11=10,20;20,21=21;12=11
[H:20][CH:21]1CCC2[CH:22]1[O+:23]2[Li-][N:10](C(C)C)C(C)C>>[H:20][N+:10]([Li-][O:23]C1CC[CH:21]=[CH:22]1)(C(C)C)C(C)C 10=20;22,23=23;20,21=21,22
[H:20][N+:21](C)(C)C=C.C[C:10](=C)[Mg:11]Br>>[H:20][C:10](=C)C.C[N:21](C)C=C.[Mg+:11]Br 10,11=10,20;20,21=21
[B:20](Br)(Br)Br.CCCC1=CC(=C(C=C1)C)[O:10]C>>[B-:20]([O+:10](C)C1=C(C=CC(=C1)CCC)C)(Br)(Br)Br 10=20,
CC1CC(C23CCC[N+]4(C2(CCC4)[C:20](=[O:21])CC3C1O)OC(=O)C(F)(F)F)[OH:10].C(=O)(C(F)(F)F)[O-]>>CC1CC2C34CCC[N+]5(C3(CCC5)[C:20]([OH+:10]2)(CC4C1O)[O-:21])OC(=O)C(F)(F)F.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
CN(C)C1=CC=[N+](C=C1)[C:20]2(CC(=C)[O:21]2)[O-:10].C1=CC=C(C=C1)C#CC2(C=CC(=O)C=C2)O>>CN(C)C1=CC=[N+](C=C1)[C:20](=[O:10])CC(=C)[O-:21].C1=CC=C(C=C1)C#CC2(C=CC(=O)C=C2)O 10=20;20,21=21
C[N+]1(CCC2CC(C3(C2C1)COC(=O)N3)OCOC)[O-:10].C(=O)(C(F)(F)F)O[C:20](=[O:21])C(F)(F)F>>C[N+]1(CCC2CC(C3(C2C1)COC(=O)N3)OCOC)[O:10][C:20](C(F)(F)F)([O-:21])OC(=O)C(F)(F)F 10=20;20,21=21
CC1CC=CC(=O)C1C(C2=CCCN3C2CCC3=O)[OH:10].CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)[O-]>>CC1CC=CC(=O)C1C(C2=CCCN3C2CCC3=O)[OH+:10][I:20]4(C5=C(C=CC=C5)C(=O)O4)(OC(=O)C)OC(=O)C.CC(=O)[O-] 10=20,
C1CCC2[CH:20](C1)[Br+:21]2.[Br-:10]>>C1CCC([CH:20](C1)[Br:10])[Br:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C=CC(=[O:10])Cl>>[H:20][O+:10]=C(C=C)Cl.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21](C)[C:22](=[O+:23][Li-][N:10](C(C)C)C(C)C)N(C)C(C)C(C1=CC=CC=C1)O[Li].CC(C)NC(C)C>>[H:20][N+:10]([Li-][O:23][C:22](=[CH:21]C)N(C)C(C)C(C1=CC=CC=C1)O[Li])(C(C)C)C(C)C.CC(C)NC(C)C 10=20;22,23=23;20,21=21,22
CCCC(C[C:10]#[C:11]C)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCCC1C[C:10](=[C+:11]C)[CH2:20][N:21](C1)CC2=CC=CC=C2 10,11=10,20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1CBr)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:22](=[C:21](C=C1)[N+](=O)[O-])CBr 10=20;20,21=21,22
CC(=O)O[Si:20](C)(C)C.C[OH:10]>>CC(=O)O[Si-:20](C)(C)(C)[OH+:10]C 10=20,
[H:20][CH2:21][C:22](=[N+:23]1CCCC1C(=O)[O-])CCC2(C(=O)CCC2=O)C.[OH2:10]>>[H:20][OH2+:10].CC1(C(=O)CCC1=O)CC[C:22](=[CH2:21])[N:23]2CCCC2C(=O)[O-] 10=20;22,23=23;20,21=21,22
C1=C[CH:10]=[C:11](C=C1)Br.[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>C1=C[CH:10]([C+:11](C=C1)Br)[Br:20].[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21
[H:20][O:21][C:22](=[O+:23][Mg-](O)[OH:10])CCl>>[H:20][OH+:10][Mg-](O)[O:23][C:22](=[O:21])CCl 10=20;22,23=23;20,21=21,22
C[S+](C)O[C:20](C(=O)Cl)([O-:10])[Cl:21]>>C[S+](C)O[C:20](=[O:10])C(=O)Cl.[Cl-:21] 10=20;20,21=21
[B-]([O+:21]1CCC[O:10][C:20]1(C)C)(F)(F)F>>[B-]([O:21]CCC[O+:10]=[C:20](C)C)(F)(F)F 10=20;20,21=21
[H:20][OH+:21]CCC.CCCOC(CC(C1=CC=CC=C1)[NH3+])(O)[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]C(CC(C1=CC=CC=C1)[NH3+])(O)OCCC.CCC[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
C1(=C([N+](=O)[O-])[N+](=O)[O-])NC(=O)[C:21]([C:20](N1)(O)[OH:10])([N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)O>>[C-:21](C(=O)NC(=C([N+](=O)[O-])[N+](=O)[O-])N[C:20](=[OH+:10])O)([N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)O 10=20;20,21=21
C[Si](C)(C)OCC[O+](C1(CCC2=C(O1)C=CC=C2)O[Si](C)(C)C)[Si:20](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:10]>>C[Si](C)(C)OCC[O+](C1(CCC2=C(O1)C=CC=C2)O[Si](C)(C)C)[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C(F)(F)F 10=20,
[Li:10][O:11]Cl(=O)(=O)=O>>[Li+:10].[O-:11]Cl(=O)(=O)=O 10,11=11
[CH2:20]([NH2:10])[I:21]>>[CH2:20]=[NH2+:10].[I-:21] 10=20;20,21=21
[B:20](F)(F)F.C1CCC2C3=C(C2(C4(CC1)OCC[O:10]4)O)C=CC=C3.CC[SiH](CC)CC>>[B-:20]([O+:10]1CCOC12CCCCCC3C2(C4=C3C=CC=C4)O)(F)(F)F.CC[SiH](CC)CC 10=20,
[H:20][O+:21](C1=C(C=CC=C1)O)C2(CCCCC2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.C1CCC(CC1)(O)[O:21]C2=C(C=CC=C2)O 10=20;20,21=21
[H:20][OH+:21]C(CC1=CC=CC=C1)OC.[OH2:10]>>[H:20][OH2+:10].COC(CC1=CC=CC=C1)[OH:21] 10=20;20,21=21
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(OCC=CC4=CC=C(C=C4)Cl)[Br:11].C(Br)(Br)Br>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)OCC=CC4=CC=C(C=C4)Cl.[Br-:11].C(Br)(Br)Br 10,11=11
[H:20][C:21](C1=CC=CC=C1)([C:22]2=[N+:23](C(=C(S2)CCO)C)C)O.CC[N:10](CC)CC.CCO.C1=CSC(=C1)C(=O)C=CC2=CC=C(C=C2)C#N.[I-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(S[C:22](=[C:21](C2=CC=CC=C2)O)[N:23]1C)CCO.CCO.C1=CSC(=C1)C(=O)C=CC2=CC=C(C=C2)C#N.[I-] 10=20;22,23=23;20,21=21,22
[H:20][Cl:21].C1CCC(=N[OH:10])C(CC1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][OH+:10]N=C1CCCCCC1(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-:21] 10=20;20,21=21
